US05736528
2-trifluoroacetylaminonorborn-5-ene (11).
Method A (via mixed anhydride): A solution of norborn-5-ene-2-carboxylic acid (1.75 g, 12.8 mmol) and triethylamine (1.95 mL, 1.43 g, 14.1 mmol) in dry acetone (25 mL) was cooled in an ice bath. Freshly distilled ethyl chloroformate (1.41 mL, 1.60 g, 14.7 mmol) was added, and the reaction mixture was stirred at 0° C. After this period, a solution of sodium azide (1.04 g, 16.0 mmol) in distilled water (5 mL) was added, and the reaction mixture was stirred for 2 hours at 0° C. The reaction mixture was poured onto ice (≈10 mL), and the aqueous phase was extracted with dichloromethane (2×20 mL). All organic portions were combined, dried over magnesium sulfate for 14 hours, filtered, and evaporated to yield a colorless oil. This oil was taken up in dichloromethane and refluxed with trifluoroacetic acid (1.28 mL, 1.90 g, 16.7 mmol) for 14 hours. After cooling, the reaction mixture was washed with saturated sodium bicarbonate (2×25 mL), dried over magnesium sulfate, filtered, and evaporated to afford the crude product. Purification was achieved by column chromatography using chloroform/hexane (1:1) as an eluent. The final product was obtained as a white crystalline solid (1.48 g, 57%). Method B (via acid chloride, single phase): A solution of norborn-5-ene-carbonyl chloride (1.90 g, 12.5 mmol) in acetone (25 mL) was cooled in an ice bath. A solution of sodium azide (0.98 g, 15.1 mmol) in distilled water (5 mL) was added, and the reaction mixture was stirred for 2 hours at 0° C. The reaction mixture was poured onto ice (≈10 mL), and the aqueous phase was extracted with dichloromethane (3×40 mL). All organic portions were combined, dried over magnesium sulfate for 14 hours and then filtered. Trifluoroacetic acid (1.25 mL, 1.85 g, 16.2 mmol) was added to the filtrate, which was then refluxed for 24 hours. After cooling, the reaction mixture was washed with saturated sodium bicarbonate (2×25 mL), dried over magnesium sulfate, filtered, and evaporated to an eluent. The final product was obtained as a white crystalline solid (1.41 g, 57%). Method C (via acid chloride, phase transfer conditions): A solution of norborn-5-ene-2-carbonyl chloride (2.0 g, 13.4 mmol) in dichloromethane (25 mL) containing tetrabutylammonium bromide (50-100 mg) was cooled in an ice bath. A solution of sodium azide (1.05 g, 16.2 mmol) in distilled water (5 mL) was added, and the reaction mixture was stirred vigorously for 2 hours at 0° C. The reaction mixture was poured onto ice (≈10 mL), and the aqueous phase was extracted with dichloromethane (2×20 mL). All organic portions were combined, dried over magnesium sulfate for 14 hours, and then filtered. Trifluoroacetic acid (1.14 mL, 1.69 g, 14.8 mmol) was added to the filtrate, which was then refluxed for 14 hours. After cooling, the reaction mixture was washed with saturated sodium bicarbonate (2×50 mL), dried over magnesium sulfate, filtered, and evaporated to yield the crude product. Purification was achieved by column chromatography using chloroform/hexane (1:1) as an eluent. Evaporation of selected fractions yielded pure endo-2-trifluoroacetylaminonorborn-5-ene (0.77 g, 28%), though the overall yield of both exo and endo isomers was 56% (1.46 g); mp 44°-46° C.; 1H NMR (CDCl3): δ0.83 (dt, 2H, H3/H7), 1.37-1.57 (m, 2H, H3/H7), 2.28 (m, 1H, H3/H7), 2.93 (br s, 1H, H1/H4), 3.13 (br s, 1H, H1/H4), 4.53 (m, 1H, H2), 6.04 (dd, 1H, H5/6), 6.45 (dd, 1H, H5/6); 13C NMR (CDCl3): δ35.2, 42.5, 45.8, 48.8, 50.0, 115.8 (q, J-288.1 Hz, --CF3), 130.7, 141.0, 156.7 (q, J=36.6 Hz, C=O).

reactant | norborn-5-ene-carbonyl chloride | 12.5 mmol, 1.90 g | C12(CCC(C=C1)C2)C(=O)Cl | C8H9ClO
reactant | sodium azide | 15.1 mmol, 0.98 g | [N-]=[N+]=[N-].[Na+]
reactant | Trifluoroacetic acid | 16.2 mmol, 1.25 mL, 1.85 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | acetone | 25 mL | CC(=O)C | C3H6O
solvent | water | 5 mL | O | H2O
product | 2-trifluoroacetylaminonorborn-5-ene | FC(C(=O)NC1C2C=CC(C1)C2)(F)F | C9H10F3NO
